US09108939B2
D: tert-Butyl 4-(4-(3-(2-amino-2-methylpropyl)ureido)-3-fluorobenzyl)piperidine-1-carboxylate
tert-Butyl 4-(4-amino-3-fluorobenzyl)piperidine-1-carboxylate (3.44 mmol, 1.06 g) and 4-nitrophenyl chloroformate (3.44 mmol, 0.693 g) were combined in tetrahydrofuran (5 mL) and the reaction stirred at room temperature for 1 hour. 2-Methylpropane-1,2-diamine (3.44 mmol, 0.303 g) and triethylamine (10.31 mmol, 1.043 g) were added and the mixture stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue purified by silica gel column chromatography (eluting with dichloromethane to 20% methanol/dichloromethane) to afford the title compound (960 mg). MS (ESI) m/z 423.2 [M+H]+

reactant | tert-Butyl 4-(4-amino-3-fluorobenzyl)piperidine-1-carboxylate | 3.44 mmol, 1.06 g | NC1=C(C=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C17H25FN2O2
reactant | 4-nitrophenyl chloroformate | 3.44 mmol, 0.693 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-Methylpropane-1,2-diamine | 3.44 mmol, 0.303 g | CC(CN)(C)N | C4H12N2
reactant | triethylamine | 10.31 mmol, 1.043 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(4-(3-(2-amino-2-methylpropyl)ureido)-3-fluorobenzyl)piperidine-1-carboxylate | 960 mg | NC(CNC(NC1=C(C=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F)=O)(C)C | C22H35FN4O3
